US08207216B2
1-Methyl-5-vinyl-1H-indole.
To a solution of 1-methyl-5-trimethylsilanylethynyl-1H-indole (0.50 g, 1.95 mmol) in DMF (10 mL) were added lithium chloride (0.32 mg, 7.59 mmol), bis(triphenylphosphine)palladium (II) (0.225 g, 0.195 mmol) and tributylvinyltin (0.80 g, 2.52 mmol). The resulting suspension was heated at 80° C. for 2 h and cooled to room temperature. The reaction mixture was filtered through Celite pad washing with ethyl acetate, organic solvents were evaporated in vacuo. The residue was purified by column chromatography (ethyl acetate:hexane; 5:95) to give a product (290 mg, 94%). 1H NMR (DMSO-d6, 400 MHz) 3.77 (s, 1H), 5.10 (d, J=3.9 Hz, 1H), 5.70 (d, J=7.6 Hz, 1H), 6.40 (d, J=2.5 Hz, 1H), 6.80 (dd, J=11.0, 17.3 Hz, 1H), 7.30-7.41 (m, 3H), 7.58 (s, 1H); 13C NMR (DMSO-d6, 100 MHz) 32.9, 101.1, 110.2, 111.0, 119.2, 119.5, 128.5, 128.8, 130.6, 136.7, 138.3.

reactant | 1-methyl-5-trimethylsilanylethynyl-1H-indole | 1.95 mmol, 0.50 g | CN1C=CC2=CC(=CC=C12)C#C[Si](C)(C)C | C14H17NSi
reactant | lithium chloride | 7.59 mmol, 0.32 mg | [Cl-].[Li+]
reactant | tributylvinyltin | 2.52 mmol, 0.80 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium | 0.195 mmol, 0.225 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 1-Methyl-5-vinyl-1H-indole | 290 mg, 94% | CN1C=CC2=CC(=CC=C12)C=C | C11H11N
